US09169246B2
Step 6.4. N-(5-chloro-4-fluoro-2-iodophenyl)-1-(tetrahydro-2H-pyran-2-yl)-N-(2,2,2-trifluoroethyl)-1H-pyrazole-4-carboxamide
To a solution of N-(5-chloro-4-fluoro-2-iodophenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole-4-carboxamide (1.26 g, 3.13 mmol) in 55 mL of anhydrous MeTHF heated to 65° C. are added potassium t-butoxide (421 mg, 3.76 mmol) and 2,2,2-trifluoroethyl trifluoromethanesulfonate (0.54 mL, 3.76 mmol). The reaction mixture is stirred for 2 hours at 65° C., and then cooled, poured into saturated aqueous NaHCO3 solution and extracted with EtOAc. The organic phase is washed with saturated aqueous NaCl solution, dried over Na2SO4 and concentrated to dryness. After purification by flash chromatography on silica (DCM/EtOAc: 100/0 to 95/5), 2.32 g of an orange-coloured solid are obtained (yield: 73%).

reactant | N-(5-chloro-4-fluoro-2-iodophenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole-4-carboxamide | 3.13 mmol, 1.26 g | ClC=1C(=CC(=C(C1)NC(=O)C=1C=NN(C1)C1OCCCC1)I)F | C15H14ClFIN3O2
reactant | potassium t-butoxide | 3.76 mmol, 421 mg | CC(C)([O-])C.[K+]
reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | 3.76 mmol, 0.54 mL | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeTHF | 55 mL | CC1CCCO1 | C5H10O
product | N-(5-chloro-4-fluoro-2-iodophenyl)-1-(tetrahydro-2H-pyran-2-yl)-N-(2,2,2-trifluoroethyl)-1H-pyrazole-4-carboxamide | yield: 73% | ClC=1C(=CC(=C(C1)N(C(=O)C=1C=NN(C1)C1OCCCC1)CC(F)(F)F)I)F | C17H15ClF4IN3O2
